US07872031B2
To a stirred solution of N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-(tert-butylamino)pyridine-3-carboxamide (3.0 g, 7.55 mmol) in 1,4-dioxane (50 mL) was added 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent, 4.5 g, 11.3 mmol) at room temperature. The reaction mixture was heated at reflux (110° C.) for 10 hr. The reaction mixture was concentrated in vacuo and the resulting residue was taken in saturated aq. NaHCO3 solution (100 mL) and extracted with CHCl3 (200 mL). The organics were washed with water (3×100 mL), brine solution (1×100 mL), and dried (Na2SO4). Filtration and evaporation of solvent in vacuo, followed by silica gel chromatography (0.5% methanol/chloroform) gave N-tert-butyl-3-(1-(2,3-difluorophenyl)-1H-imidazo[4,5-c]pyridin-2-yl)pyridin-2-amine (1.2 g, 41.9% yield) as a light yellow solid; LC-MS: 380.2 (M+H).

reactant | N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-(tert-butylamino)pyridine-3-carboxamide | 7.55 mmol, 3.0 g | FC1=C(C=CC=C1F)NC1=C(C=NC=C1)NC(=O)C=1C(=NC=CC1)NC(C)(C)C | C21H21F2N5O
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 11.3 mmol, 4.5 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-tert-butyl-3-(1-(2,3-difluorophenyl)-1H-imidazo[4,5-c]pyridin-2-yl)pyridin-2-amine | 1.2 g, 41.9% yield | C(C)(C)(C)NC1=NC=CC=C1C=1N(C2=C(C=NC=C2)N1)C1=C(C(=CC=C1)F)F | C21H19F2N5
